US09062048B2
Step A: (E)-N-(1,4-dioxaspiro[4.5]decan-8-ylmethylene)-2-methylpropane-2-sulfinamide
To a solution of 1,4-dioxaspiro[4.5]decane-8-carbaldehyde (6.68 g, 39.2 mmol, prepared as described in Pearson, et al. in J. Org. Chem. 1997, 62(16), 5284-5292), racemic 2-methylpropane-2-sulfinamide (3.50 g, 28.0 mmol), tech grade titanium (IV) ethoxide (14 mL, 67.5 mmol) were dissolved in dry THF (100 mL), placed under an argon atmosphere and stirred at ambient temperature for 16 hours. The next day the reaction mixture was diluted with ethyl acetate and poured onto rapidly stirred ice cold brine. The copious white precipitate was removed by filtration through celite and the organic layer removed. After drying over Na2SO4 and concentration the residue was purified by flash chromatography (silica gel, 0-100% ether/DCM) to afford the product.

reactant | 1,4-dioxaspiro[4.5]decane-8-carbaldehyde | 39.2 mmol, 6.68 g | O1CCOC12CCC(CC2)C=O | C9H14O3
reactant | racemic 2-methylpropane-2-sulfinamide | 28.0 mmol, 3.50 g | CC(C)(C)S(=O)N | C4H11NOS
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | titanium (IV) ethoxide | 67.5 mmol, 14 mL | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
product | (E)-N-(1,4-dioxaspiro[4.5]decan-8-ylmethylene)-2-methylpropane-2-sulfinamide | O1CCOC12CCC(CC2)\C=N\S(=O)C(C)(C)C | C13H23NO3S
